US04963590
N-(3-hydroxypropyl)-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylamide.
The procedure described in Example 99 was repeated using N-(3-hydroxypropyl)cyanoacetamide and 3,4-dihydroxy-5-nitrobenzaldehyde. Yield 52%, m.p. 223°-228° C.

reactant | N-(3-hydroxypropyl)cyanoacetamide | OCCCNC(CC#N)=O | C6H10N2O2
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
product | N-(3-hydroxypropyl)-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylamide | Yield 52% | OCCCNC(C(=CC1=CC(=C(C(=C1)[N+](=O)[O-])O)O)C#N)=O | C13H13N3O6
